US04395414
1,2-Dihydro-2-oxo-3-phenylquinol-1-yl-acetic acid ethyl ester
17 g of 1,2-dihydro-2-oxo-3-phenylquinoline, 12.8 g of bromoacetic acid ethyl ester, 2.5 g of tetrabutylammonium bromide and 6.2 g of powdered potassium hydroxide are stirred in 250 ml of tetrahydrofuran at room temperature for 16 hours. The mixture is poured into 1 l of ice-water, acidified to pH 3 to 4 with dilute sulphuric acid and extracted with diethyl ether and the organic phase is dried over sodium sulphate, treated with active charcoal and concentrated. 17.1 g of the title compound are obtained as a viscous, yellow oil.

reactant | 1,2-dihydro-2-oxo-3-phenylquinoline | 17 g | O=C1NC2=CC=CC=C2C=C1C1=CC=CC=C1 | C15H11NO
reactant | bromoacetic acid ethyl ester | 12.8 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | potassium hydroxide | 6.2 g | [OH-].[K+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | tetrabutylammonium bromide | 2.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1,2-Dihydro-2-oxo-3-phenylquinol-1-yl-acetic acid ethyl ester | 17.1 g | C(C)OC(CN1C(C(=CC2=CC=CC=C12)C1=CC=CC=C1)=O)=O | C19H17NO3
